US05075043
Ethyl N-methyl-N-phenylglycine
A mixture of N-methyl aniline (198 g, 1.85 mol), ethylchloroacetate (227 g, 1.85 mol), potassium carbonate (256 g, 1.85 mol), potassium iodide (15 g, 0.93 mol), and 750 mL of absolute ethanol was stirred at reflux for 72 hours, then cooled and filtered. The solvent was removed from the filtrate at reduced pressure, and the residue was fractionally distilled in vacuo. A slightly yellow oil was obtained.

reactant | N-methyl aniline | 1.85 mol, 198 g | CNC1=CC=CC=C1 | C7H9N
reactant | ethylchloroacetate | 1.85 mol, 227 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | potassium carbonate | 1.85 mol, 256 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.93 mol, 15 g | [I-].[K+]
reactant | ethanol | 750 mL | C(C)O | C2H6O
product | Ethyl N-methyl-N-phenylglycine | C(C)C(N(C1=CC=CC=C1)C)C(=O)O | C11H15NO2
